US06340678B1
Sodium hydride (47 mg) and 58 mg of bromoacetamide were added to a solution of 150 mg of (Z)-4,4-difluoro-5-{2-[4-(hydroxyimino)piperidino]-2-oxoethylidene}-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepine in 10 ml of tetrahydrofuran, and the mixture was stirred at 0° C. for three hours. The reaction solution was diluted with ethyl acetate and washed with a saturated aqueous solution of NaCl and dried over magnesium sulfate, and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (eluting with chloroform-methanol). The resulting residue was crystallized from diethyl ether to give 110 mg of (Z)-[(1-{[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetyl}piperidin-4-ylidene)aminoxy]acetamide as a pale yellow powder.

reactant | Sodium hydride | 47 mg | [H-].[Na+]
reactant | bromoacetamide | 58 mg | BrCC(=O)N | C2H4BrNO
reactant | (Z)-4,4-difluoro-5-{2-[4-(hydroxyimino)piperidino]-2-oxoethylidene}-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepine | 150 mg | FC\1(CCN(C2=C(/C1=C/C(=O)N1CCC(CC1)=NO)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | C28H26F2N4O3S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-[(1-{[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetyl}piperidin-4-ylidene)aminoxy]acetamide | 110 mg | FC\1(CCN(C2=C(/C1=C/C(=O)N1CCC(CC1)=NOCC(=O)N)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | C30H29F2N5O4S
